* Z:\home\victor\EE346\exp7p2.asc
V1 N002 0 V
Q1 N001 N004 0 0 NPN
R1 N001 N002 100k
R2 NC_01 N003 68k
V2 N003 0 V
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.dc V1 0 16 
.backanno
.end
